US07678803B2
A mixture of 2,4-Difluorobenzonitrile (1.1 g, 1 eq), acetamidine hydrochloride (2.8 g, 3.78 eq) and sodium hydride (1.52 g, 8 eq) in dimethylacetamide (50 mL) is stirred at 150° C. for overnight. Then the reaction mixture is poured into sat'd NaHCO3 aq. solution (300 mL), extracted by EtOAc (3×200 mL), the combined organic layers dried over Na2SO4, filtered, concentrated to give a crude product. Purification of that by flash column chromatography yields 7-Fluoro-2-methyl-quinazolin-4-ylamine (0.46 g, 33% yield). LC/MS m/z=178 [M+H]+.

reactant | 2,4-Difluorobenzonitrile | 1.1 g, 1 eq | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | acetamidine hydrochloride | 2.8 g, 3.78 eq | Cl.C(C)(=N)N
reactant | sodium hydride | 1.52 g, 8 eq | [H-].[Na+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
reactant | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | 7-Fluoro-2-methyl-quinazolin-4-ylamine | 0.46 g, 33% yield | FC1=CC=C2C(=NC(=NC2=C1)C)N | C9H8FN3
